US08895566B2
A solution of (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride (50 mg, 0.149 mmol), (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate (49.8 mg, 0.149 mmol) and DIEA (0.130 mL, 0.745 mmol) in NMP (0.30 mL, 0.149 mmol) was heated at 100° C. for 1 day. The crude reaction mixture was diluted with methanol and filtered. The filtrate was purified (C18, 5-95% MeCN/H2O+1% TFA). The fractions containing product were isolated by basifying with 25% NaOH and extracting into CH2Cl2/isopropanol (3:1). The organic layers were concentrated, and the residue was diluted with methanol. The solution was saturated with HCl (g). The solution was evaporated to give (5R,7R)-4-(3-(Amino(4-chlorophenyl)methyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol bishydrochloride (15.3 mg, 25%). LCMS (APCI+) rt=2.28 min. 1H NMR (400 MHz, d6-DMSO+3 drops D2O) δ 8.83 (d, J=7.8 Hz, 1H), 7.55 (s, 4H), 6.02 (d, J=8.6 Hz, 1H), 5.30 (m, 1H), 4.54 (m, 1H), 4.36 (m, 1H), 4.24 (m, 1H), 4.09 (m, 1H), 3.48 (m, 1H), 2.21 (m, 1H), 2.08 (m, 1H), 1.26 (m, 1H), 1.19 (m, 3H).

reactant | (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride | 0.149 mmol, 50 mg | Cl.Cl.ClC1=CC=C(C=C1)C(N)C1=NN=C2N1CCNC2
reactant | (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate | 0.149 mmol, 49.8 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C3=C2N=CN=C3Cl)C)C=C1 | C15H12ClN3O4
reactant | DIEA | 0.745 mmol, 0.130 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 0.149 mmol, 0.30 mL | CN1CCCC1=O | C5H9NO
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (5R,7R)-4-(3-(Amino(4-chlorophenyl)methyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol bishydrochloride | 15.3 mg, 25% | Cl.Cl.NC(C1=NN=C2N1CCN(C2)C=2C1=C(N=CN2)[C@@H](C[C@H]1C)O)C1=CC=C(C=C1)Cl | InChI=1S/C20H22ClN7O.2ClH/c1-11-8-14(29)18-16(11)19(24-10-23-18)27-6-7-28-15(9-27)25-26-20(28)17(22)12-2-4-13(21)5-3-12;;/h2-5,10-11,14,17,29H,6-9,22H2,1H3;2*1H/t11-,14-,17?;;/m1../s1
